US06624202B2
(1R*,2S*)-2-(1-Methylhydrazino)-1-phenyl-1-propanol hydrochloride (2)
To a solution of 1-oxa-2-azaspiro[2.5]octane (0.60 g, 5.3 mmol) in ether (20 ml) a solution of (1R*,2S*)-2-methylamino-1-phenyl-1-propanol (0.86 g, 5.3 mmol) in ether (5 ml) was added. The reaction mixture was stirred at room temperature for 30 minutes then evaporated to dryness. 5% Hydrochloric acid (30 ml) was added to the residue and the mixture was stirred at ambient temperature for 1 h. The mixture was washed with Et2O (2×30 ml), made alkaline with Na2CO3 under ice-cooling and extracted with EtOAc (3×50 ml). The combined EtOAc extracts were dried and evaporated to give a solide residue which was dissolved in methanol (5 ml) and converted to the crystalline hydrochloride salt by using 22% ethanolic hydrogen chloride (2 ml) and diethyl ether. Crystals were filtered off and recrystallized from methanol/diethyl ether.

reactant | 1-oxa-2-azaspiro[2.5]octane | 5.3 mmol, 0.60 g | O1NC12CCCCC2 | C6H11NO
reactant | (1R*,2S*)-2-methylamino-1-phenyl-1-propanol | 5.3 mmol, 0.86 g | CN[C@H]([C@H](O)C1=CC=CC=C1)C | C10H15NO
reactant | hydrogen chloride | 2 ml | Cl | ClH
solvent | ether | 20 ml | CCOCC | C4H10O
solvent | ether | 5 ml | CCOCC | C4H10O
solvent | methanol | 5 ml | CO | CH4O
solvent | diethyl ether | C(C)OCC | C4H10O
product | (1R*,2S*)-2-(1-Methylhydrazino)-1-phenyl-1-propanol hydrochloride | Cl.CN(N)[C@H]([C@H](O)C1=CC=CC=C1)C | InChI=1S/C10H16N2O.ClH/c1-8(12(2)11)10(13)9-6-4-3-5-7-9;/h3-8,10,13H,11H2,1-2H3;1H/t8-,10-;/m0./s1
